US09340549B2
tert-Butyl ((1r,4r)-4-((3-nitropyridin-2-yl)amino)cyclohexyl)carbamate
To a flask charged with toluene (37.3 mL) were added trans-N-boc-1,4-cyclohexanediamine (2.00 g, 9.33 mmol), potassium carbonate (1.290 g, 9.33 mmol) and 2-fluoro-3-nitropyridine (commercially available from Matrix Scientific, Columbia, S.C.) (1.326 mL, 9.33 mmol). The resulting bright yellow solution was heated overnight at 120° C. leading to conversion to the desired product as the primary species along with a more polar impurity according to LC-MS. The mixture was diluted with water, transferred to a separatory funnel and extracted with EtOAc (2×). The combined organic layers were dried with Na2SO4, filtered, and dried under reduced pressure providing a bright yellow solid which was triturated with DCM providing tert-butyl ((1r,4r)-4-((3-nitropyridin-2-yl)amino)cyclohexyl)carbamate (1.51 g, 4.49 mmol, 48.1% yield) as a bright yellow solid. 1H NMR (400 MHz, DMSO-d6) δ=8.49 (dd, J=1.8, 4.5 Hz, 1H), 8.41 (dd, J=1.8, 8.4 Hz, 1H), 8.06 (d, J=7.7 Hz, 1H), 6.79-6.69 (m, 2H), 4.13-4.00 (m, J=3.9, 7.4, 7.4, 11.3 Hz, 1H), 3.29-3.20 (m, 1H), 2.01-1.92 (m, 2H), 1.82 (d, J=10.6 Hz, 2H), 1.55-1.41 (m, 2H), 1.38 (s, 9H), 1.35-1.21 (m, 2H). m/z (ESI) 281.2 (M+H)+.

reactant | trans-N-boc-1,4-cyclohexanediamine | 9.33 mmol, 2.00 g | C(=O)(OC(C)(C)C)N[C@@H]1CC[C@H](CC1)N | C11H22N2O2
reactant | potassium carbonate | 9.33 mmol, 1.290 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoro-3-nitropyridine | FC1=NC=CC=C1[N+](=O)[O-] | C5H3FN2O2
solvent | toluene | 37.3 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl ((1r,4r)-4-((3-nitropyridin-2-yl)amino)cyclohexyl)carbamate | CC(C)(C)OC(=O)NC1CCC(CC1)NC2=C(C=CC=N2)[N+](=O)[O-] | C16H24N4O4
